US20010049371A1
A mixture of N-benzyloxy-3-(3-ethoxy-4-methoxyphenyl)-3-(3-nitrophthalimido)propionamide (1.32 g, 2.54 mmol) and 10% Pd/C (230 mg) in ethyl acetate/methanol (150 mL each) was shaken under 50-60 psi of H2. After 3 days, the suspension was filtered through a pad of Celite, and the pad washed with methanol (75 mL) and methylene chloride (75 mL). The filtrate was concentrated in vacuo to give an oil. The oil was stirred with ether (20 mL) to afford 3-(3-aminophthalimido)-3-(3-ethoxy-4-methoxyphenyl)-N-hydroxypropionamide as a yellow solid (650 mg, 64% yield): mp, 143.0-145.0° C.; 1H NMR (DMSO-d6) δ1.39 (t, J=6.9 Hz, 3H, CH3), 3.16 (d, J=7.8 Hz, 2H, CH2), 3.79 (s, 3H, CH3), 4.05 (q, J=6.9 Hz, 2H, CH2), 5.68 (t, J=7.8 Hz, 1H, NCH), 6.55 (br s, 2H, NH2), 6.98-7.08 (m, 5H, Ar), 7.47-7.53 (m, 1H, Ar), 8.88 (br s, 1H, OH), 10.66 (1H, NH); 13C NMR (DMSO-d6) δ14.70, 34.37, 49.65, 55.47, 63.75, 108.64, 110.68, 111.77, 112.39, 119.61, 121.40, 131.69, 132.03, 135.19, 146.48, 147.65, 148.47, 166.14, 167.81, 169.18; Anal Calcd for C20H21N3O6: C, 60.14; H, 5.30; N, 10.52. Found: C, 59.76; H, 5.21; N, 10.30.

reactant | N-benzyloxy-3-(3-ethoxy-4-methoxyphenyl)-3-(3-nitrophthalimido)propionamide | 2.54 mmol, 1.32 g | C(C1=CC=CC=C1)ONC(CC(N1C(C=2C(C1=O)=C(C=CC2)[N+](=O)[O-])=O)C2=CC(=C(C=C2)OC)OCC)=O | C27H25N3O8
reactant | ether | 20 mL | CCOCC | C4H10O
solvent | ethyl acetate methanol | 150 mL | C(C)(=O)OCC.CO
catalyst | Pd/C | 230 mg | [Pd] | Pd
product | 3-(3-aminophthalimido)-3-(3-ethoxy-4-methoxyphenyl)-N-hydroxypropionamide | 650 mg, 64% yield | NC1=C2C(C(=O)N(C2=O)C(CC(=O)NO)C2=CC(=C(C=C2)OC)OCC)=CC=C1 | C20H21N3O6
